US07867629B2
Dissolving 5 g (18 mmol) of 2,4′-dibromo acetophenone and 2.0 g (19 mmol) of 2-amino-5-picoline into 30 milliliter of ethanol, adding 2.9 g of sodium hydrogen carbonate, the resultant suspension was refluxed under heating for 6 hours. After completion of the reaction, separation with filtration was carried out and resultant crystals were washed with water and ethanol, thereby obtaining 4.2 g of 2-(4-bromo-phenyl)-6-methyl-imidazo [1,2-a] pyridine (yield: 81%).

reactant | 2,4′-dibromo acetophenone | 18 mmol, 5 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | 2-amino-5-picoline | 19 mmol, 2.0 g | NC1=NC=C(C=C1)C | C6H8N2
reactant | sodium hydrogen carbonate | 2.9 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 30 milliliter | C(C)O | C2H6O
product | 2-(4-bromo-phenyl)-6-methyl-imidazo [1,2-a] pyridine | 4.2 g, yield: 81% | BrC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C)C1 | C14H11BrN2
